US04634783
In 10 ml of dry pyridine was dissolved 1.4 g of 5-methoxy-furan-2-carboxylic acid. To the resulting solution was added 2.5 g of DCC and the reaction mixture was stirred for 30 minutes at room temperature. To the reaction mixture was added with stirring and cooling in ice 2.8 g of 6-amidino-2-naphthol methanesulfonate. The reaction mixture was stirred overnight at room temperature. The precipitate was collected by filtration, washed with dry pyridine, added to DMF and stirred. The insolubles were filtered off and ethyl ether was added to the filtrate. The precipitate was collected by filtration and washed with acetone to obtain 2.7 g of 6-amidino-2-naphthyl 5-methoxy-furan-2-carboxylate methanesulfonate.

reactant | 5-methoxy-furan-2-carboxylic acid | 1.4 g | COC1=CC=C(O1)C(=O)O | C6H6O4
reactant | DCC | 2.5 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | 6-amidino-2-naphthol methanesulfonate | CS(=O)(=O)OC1=CC2=CC=C(C=C2C=C1)C(N)=N | C12H12N2O3S
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 6-amidino-2-naphthyl 5-methoxy-furan-2-carboxylate methanesulfonate | 2.7 g | CS(=O)(=O)O.COC1=CC=C(O1)C(=O)OC1=CC2=CC=C(C=C2C=C1)C(N)=N | InChI=1S/C17H14N2O4.CH4O3S/c1-21-15-7-6-14(23-15)17(20)22-13-5-4-10-8-12(16(18)19)3-2-11(10)9-13;1-5(2,3)4/h2-9H,1H3,(H3,18,19);1H3,(H,2,3,4)
